US07547710B2
A mixture of tert-butyl {[6-hydroxy-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate (2.5 g, 5.9 mmol), bromoacetonitrile (0.5 ml, 7.2 mmol), potassium carbonate (1.0 g, 7.2 mmol) and N,N-dimethylformamide (10 ml) was stirred at room temperature for 12 hrs. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give tert-butyl {[6-(cyanomethoxy)-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate (1.4 g, yield 52%) as pale-yellow crystals.

reactant | tert-butyl {[6-hydroxy-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate | 5.9 mmol, 2.5 g | OC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C | C26H32N2O3
reactant | bromoacetonitrile | 7.2 mmol, 0.5 ml | BrCC#N | C2H2BrN
reactant | potassium carbonate | 7.2 mmol, 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | tert-butyl {[6-(cyanomethoxy)-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate | 1.4 g, yield 52% | C(#N)COC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C | C28H33N3O3
